US04629737
N-[2-(4-Carbomethoxymethoxyphenyl)-1-methyl ethyl]-2-methoxy-2-(2,3-difluorophenyl)ethanamine
1-(4-Carbomethoxymethoxyphenyl)propan-2-one (2.20 g) and 2-methoxy-2-(2,3-difluorophenyl)ethanamine (1.87 g) in methanol (50 ml) was hydrogenated in the presence of platinum (from platinum oxide, 50 mg) until hydrogen uptake ceased. The solution was filtered through diatomaceous earth, and the solvent removed under reduced pressure. Chromatography of the residue on silica-gel eluting with 2% methanol in dichloromethane gave the title compound as an oil. The product was used in Example 54 without further purification.

reactant | 1-(4-Carbomethoxymethoxyphenyl)propan-2-one | 2.20 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | 2-methoxy-2-(2,3-difluorophenyl)ethanamine | 1.87 g | COC(CN)C1=C(C(=CC=C1)F)F | C9H11F2NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | platinum | 50 mg | [Pt] | Pt
product | N-[2-(4-Carbomethoxymethoxyphenyl)-1-methyl ethyl]-2-methoxy-2-(2,3-difluorophenyl)ethanamine | C(=O)(OC)COC1=CC=C(C=C1)CC(C)NCC(C1=C(C(=CC=C1)F)F)OC | C21H25F2NO4
